US07101886B2
3-{4-[2-(4-NITRO-PHENYL)-ETHYL]-PIPERAZIN-1-YL}-1,2-BENZISOTHIAZOLE
Excess dried, −325 mesh potassium carbonate (20 g) was diluted in 500 mL acetone and 3-piperazin-1-yl-benzoisothiazole hydrochloride (13.05 g, 51.2 mmol) was added. The mixture was stirred for 15 min before 4-nitrophenethyl tosylate (14.93 g, 46.5 mmol) and catalytic 18-crown-6 (0.5 g, 1.9 mmol) was added. The mixture was stirred at reflux for 42 h. After cooling, the salts were filtered off and washed with acetone and the filtrate was concentrated. The residue was taken up in methylene chloride and washed with water. The organic layer was dried over sodium sulfate, and concentrated. The residue was triturated with ethyl acetate and the collected solid was washed with ethyl ether and dried in vacuo to afford 14.86 g of a bright yellow solid. Yield 84%; mp 99° C.; MS (APCI): 369 [M+H]+.

reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-piperazin-1-yl-benzoisothiazole hydrochloride | 51.2 mmol, 13.05 g | Cl.N1(CCNCC1)C1=NSC2=C1C=CC=C2
reactant | 4-nitrophenethyl tosylate | 46.5 mmol, 14.93 g | S(=O)(=O)(OCCC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C)C=C1 | C15H15NO5S
solvent | acetone | 500 mL | CC(=O)C | C3H6O
catalyst | 18-crown-6 | 1.9 mmol, 0.5 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 3-{4-[2-(4-NITRO-PHENYL)-ETHYL]-PIPERAZIN-1-YL}-1,2-BENZISOTHIAZOLE | 14.86 g, Yield 84% | [N+](=O)([O-])C1=CC=C(C=C1)CCN1CCN(CC1)C1=NSC2=C1C=CC=C2 | C19H20N4O2S
